US06897231B2
SYNTHESIS OF 4-(5-(2H-1,2,3,4-TETRAAZOL-5-YL)(1H-INDAZOL-3-YL))-1,2-DIMETHOXYBENZENE
To a solution of 3-(3,4-dimethoxyphenyl)-1H-indazole-5-carbonitrile (190 mg, 0.68 mmol) in toluene (10 mL) was added tributyltin azide (930 μL, 3.4 mmol). The solution was heated to reflux for 12 hours when 3 N NaOH (80 mL) was added and the solution extracted with ethyl acetate (2×20 mL). The aqueous layer was then acidified with 4 N HCl to pH<1 and extracted with ethyl acetate (3×30 mL). The combined organic layers were dried (Na2SO4) and concentrated to an oil. After remaining at room temperature for 14 hours, the product crystallized from solution to recover, after filtration and drying, the title compound (115 mg, 53% yield). 1H NMR (DMSO-d6) δ 13.4 (s, 1H), 8.70 (s, 1H), 8.04 (d, 1H), 7.75 (d, 1H), 7.54 (d, 1H), 7.49 (s, 1H), 7.12 (d, 1H), 3.85 (s, 3H), 3.81 (s, 3H); ES-MS (m/z) 323 [M+1]+.

reactant | 3-(3,4-dimethoxyphenyl)-1H-indazole-5-carbonitrile | 0.68 mmol, 190 mg | COC=1C=C(C=CC1OC)C1=NNC2=CC=C(C=C12)C#N | C16H13N3O2
reactant | tributyltin azide | 3.4 mmol, 930 μL | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | NaOH | 3 N, 80 mL | [OH-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5-(2H-1,2,3,4-TETRAAZOL-5-YL)(1H-INDAZOL-3-YL))-1,2-DIMETHOXYBENZENE | 115 mg, 53% yield | N=1NN=NC1C=1C=C2C(=NNC2=CC1)C1=CC(=C(C=C1)OC)OC | C16H14N6O2
